US05051422
4-[3-(Acetylamino)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide
In a manner similar to Preparation 1, react N-[3-[[2-[(phenylmethyl)amino]ethyl]amino]phenyl]acetamide (25.6 g, 90.4 mmol) with 2,3-dibromopropanamide (41.8 g, 180.8 mmol) to obtain the titlecompound.

reactant | N-[3-[[2-[(phenylmethyl)amino]ethyl]amino]phenyl]acetamide | 90.4 mmol, 25.6 g | C1(=CC=CC=C1)CNCCNC=1C=C(C=CC1)NC(C)=O | C17H21N3O
reactant | 2,3-dibromopropanamide | 180.8 mmol, 41.8 g | BrC(C(=O)N)CBr | C3H5Br2NO
product | 4-[3-(Acetylamino)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide | C(C)(=O)NC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C20H24N4O2
